* source CMOS TRANSMISSION GATE
.EXTERNAL INPUT Vout
V_A         N01859 0 0
M_M4         VOUT N01859 N01581 0 Mbreakn           
M_M5         N01581 N03121 VOUT N01581 Mbreakp           
V_Vin         N01581 0 0
X_U1A         N01859 N03121 $G_DPWR $G_DGND 74LS04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C1         0 VOUT  10n  TC=0,0 
